US07919496B2
A mixture of 5-nitropyrazole-1,3-dicarboxylic acid 1-benzyl ester 3-methyl ester (3.2 g, 10.48 mmol) and SnCl2.2H2O (7.2 g, 31.9 mmol) in 1,2-dimethoxylethane (60 mL) was heated to reflux for 2 hours. The solvent was removed in vacuo. The residue was neutralized with saturated aqueous sodium carbonate. The resulting solution was filtered and the filtrate was extracted with ethyl acetate. The organic layer was separated and dried over anhydrous Na2SO4 and concentrated to give 5-aminopyrazole-1,3-dicarboxylic acid 1-benzyl ester 3-methyl ester (2.74 g, 90%). 1H NMR (300 MHz, CDCl3) δ 7.30-7.18 (m, 5H), 6.17 (s, 1H), 3.82 (s, 3H), 3.63 (s, br., 2H).

reactant | 5-nitropyrazole-1,3-dicarboxylic acid 1-benzyl ester 3-methyl ester | 10.48 mmol, 3.2 g | COC(=O)C1=NN(C(=C1)[N+](=O)[O-])C(=O)OCC1=CC=CC=C1 | C13H11N3O6
reactant | SnCl2.2H2O | 31.9 mmol, 7.2 g | O.O.Cl[Sn]Cl
solvent | 1,2-dimethoxylethane | 60 mL | O(C)CCOC | C4H10O2
product | 5-aminopyrazole-1,3-dicarboxylic acid 1-benzyl ester 3-methyl ester | 2.74 g, 90% | COC(=O)C1=NN(C(=C1)N)C(=O)OCC1=CC=CC=C1 | C13H13N3O4
